US07141596B2
Step 3: Benzyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate
A solution of benzyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-[(trifluoromethyl)sulfonyl]oxyphenyl)propanoate (6.37 g, 0.0126 mol), bis(tricyclohexylphosphine)palladium(II) chloride (0.3 g, 0.0004 mol), tricyclohexylphosphine (0.1 g, 0.0004 mol), potassium acetate (3.7 g, 0.038 mol), and 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (3.5 g, 0.014 mol) (bispinocolato)diboron,) in dry DMF (50 mL) was heated in an oil bath at 130° C. for 2 h. The reaction appeared gray-green and was heated at 100° C. for an additional 2–3 h. The mixture was diluted with water (1 L) then was extracted with diethyl ether (250 mL) four times. The combined organic phases were combined, dried over MgSO4, filtered and the solvents evaporated under reduced pressure. The crude mixture was loaded on a silica gel column using ethyl acetate/hexanes and eluted with 10% ethyl acetate in hexanes to 50% ethyl acetate. Fractions containing the major component were combined and concentrated to give a lavender oil, which upon standing solidified to give the product (5.95 g, 98%). LCMS found for C27H37BNO6 (M+H)+: m/z=482.

reactant | benzyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-[(trifluoromethyl)sulfonyl]oxyphenyl)propanoate | 0.0126 mol, 6.37 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C22H24F3NO7S
reactant | potassium acetate | 0.038 mol, 3.7 g | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 0.014 mol, 3.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 1 L | O | H2O
catalyst | tricyclohexylphosphine | 0.0004 mol, 0.1 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | Benzyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate | 5.95 g, 98% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C27H36BNO6
